US05817671
5-(N-[3-pyridinecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.078 gm (0.339 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.127 gm (0.712 mMol) 3-pyridinecarbonyl chloride hydrochloride, 0.106 gm (82%) of the title compound was recovered as a crystalline solid by the procedure described in Example 16.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.339 mMol, 0.078 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 3-pyridinecarbonyl chloride hydrochloride | 0.712 mMol, 0.127 gm | Cl.N1=CC(=CC=C1)C(=O)Cl
product | 5-(N-[3-pyridinecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.106 gm, 82% | N1=CC(=CC=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C19H21N5O
